US07776875B2
Preparation of Intermediate racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-ethyl-1-methoxycarbonyl-propoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
In a manner similar to the method described in Example 10d, E/Z-3-[5-chloro-2-(1-methoxycarbonyl-1-ethyl-propoxy)-benzylidene]-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester (7.6 g, 15 mmol) was reacted with 1-(5-fluoro-2-methyl-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene (60 mmol) in toluene to give the title compound as a white solid (2.2 g).

reactant | Z-3-[5-chloro-2-(1-methoxycarbonyl-1-ethyl-propoxy)-benzylidene]-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 15 mmol, 7.6 g | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Cl)OC(CC)(CC)C(=O)OC)=O | C27H29Cl2NO6
reactant | 1-(5-fluoro-2-methyl-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene | 60 mmol | FC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)C | C13H18FNOSi
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-ethyl-1-methoxycarbonyl-propoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 2.2 g | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(CC)(C(=O)OC)CC)=O)C1=C(C=CC(=C1)F)C)=O | C32H31Cl2FN2O5
